US08211919B2
To a suspension of tert-butyl {(1S)-1-benzyl-2-[(4-bromophenyl)amino]-2-oxoethyl}carbamate (1.0 g), 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridine (587 mg) and potassium phosphate (1.52 g) in dimethoxyethane (30 mL) was added 1,1′-bis(diphenylphosphino)ferrocene palladium(II) chloride (58 mg) and the mixture was stirred at 120° C. for 4 hours. Water was added and the mixture was extracted with chloroform. The separated organic layer was washed with brine, dried over magnesium sulfate, and evaporated in vacuo. The residue was purified by column chromatography on silica gel to afford tert-butyl[(1S)-1-benzyl-2-oxo-2-{[4-(4-pyridinyl)phenyl]amino}ethyl]carbamate (830 mg).

reactant | tert-butyl {(1S)-1-benzyl-2-[(4-bromophenyl)amino]-2-oxoethyl}carbamate | 1.0 g | C(C1=CC=CC=C1)[C@@H](C(=O)NC1=CC=C(C=C1)Br)NC(OC(C)(C)C)=O | C20H23BrN2O3
reactant | 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridine | 587 mg | CC1(OB(OC1(C)C)C1=CC=NC=C1)C | C11H16BNO2
reactant | potassium phosphate | 1.52 g | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | Water | O | H2O
solvent | dimethoxyethane | 30 mL | C(OC)COC | C4H10O2
catalyst | 1,1′-bis(diphenylphosphino)ferrocene palladium(II) chloride | 58 mg | [Pd](Cl)Cl.C1(=CC=CC=C1)P([C-]1C=CC=C1)C1=CC=CC=C1.[C-]1(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Fe+2]
product | tert-butyl[(1S)-1-benzyl-2-oxo-2-{[4-(4-pyridinyl)phenyl]amino}ethyl]carbamate | 830 mg | C(C)(C)(C)OC(N[C@H](C(NC1=CC=C(C=C1)C1=CC=NC=C1)=O)CC1=CC=CC=C1)=O | C25H27N3O3
